US08685986B2
10-(a) 2-Benzofuran Carbaldehyde Oxime
To a solution of 2-benzofuran carbaldehyde (1.00 g, 6.85 mmol) in methanol (20 ml) were added hydroxylammonium chloride (530 mg, 7.63 mmol) and pyridine (2.8 ml), followed by stirring at room temperature for 6.5 hours. After completion of the reaction, the reaction solution was concentrated under reduced pressure. Ethyl acetate was added to the resulting residue, followed by washing sequentially with a 5% aqueous potassium hydrogensulfate solution, a saturated aqueous sodium hydrogen carbonate solution and then a saturated aqueous sodium chloride solution. The resulting organic layer was dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure to afford the title compound (1.07 g) as a white solid. (Yield: 97%)

reactant | 2-benzofuran carbaldehyde | 6.85 mmol, 1.00 g | O1C(=CC2=C1C=CC=C2)C=O | C9H6O2
reactant | hydroxylammonium chloride | 7.63 mmol, 530 mg | [Cl-].O[NH3+]
reactant | pyridine | 2.8 ml | N1=CC=CC=C1 | C5H5N
solvent | methanol | 20 ml | CO | CH4O
product | 2-Benzofuran Carbaldehyde Oxime | 1.07 g, Yield: 97% | O1C(=CC2=C1C=CC=C2)C=NO | C9H7NO2
